US07037905B2
2-(3,4,5-Trifluorophenyl)-[1,3,6,2]dioxazaborocane
The title compound (70%, crystals) was prepared from 3,4,5-trifluorophenylboronic acid and diethanolamin.

reactant | 3,4,5-trifluorophenylboronic acid | FC=1C=C(C=C(C1F)F)B(O)O | C6H4BF3O2
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(3,4,5-Trifluorophenyl)-[1,3,6,2]dioxazaborocane | 70% | FC=1C=C(C=C(C1F)F)B1OCCNCCO1 | C10H11BF3NO2
